US08530596B2
From the obtained 2,2′-dimethyl-5,5′-bis(1-adamantyl)-biphenyl 10 g, the same method as in Synthesis Example 7 was used to synthesize 2,2′-dimethyl-5,5′-bis(3-bromo-1-adamantyl)biphenyl 4.5 g, then the same method as in Synthesis Example 3 was used to obtain 2,2′-dimethyl-5,5′-bis(3-(3,5-diethynylphenyl)-1-adamantyl)biphenyl 3.8 g.

reactant | 2,2′-dimethyl-5,5′-bis(1-adamantyl)-biphenyl | 10 g | CC1=C(C=C(C=C1)C12CC3CC(CC(C1)C3)C2)C2=C(C=CC(=C2)C23CC1CC(CC(C2)C1)C3)C | C34H42
reactant | 2,2′-dimethyl-5,5′-bis(3-bromo-1-adamantyl)biphenyl | 4.5 g | CC1=C(C=C(C=C1)C12CC3(CC(CC(C1)C3)C2)Br)C2=C(C=CC(=C2)C23CC1(CC(CC(C2)C1)C3)Br)C | C34H40Br2
product | 2,2′-dimethyl-5,5′-bis(3-(3,5-diethynylphenyl)-1-adamantyl)biphenyl | 3.8 g | CC1=C(C=C(C=C1)C12CC3(CC(CC(C1)C3)C2)C2=CC(=CC(=C2)C#C)C#C)C2=C(C=CC(=C2)C23CC1(CC(CC(C2)C1)C3)C3=CC(=CC(=C3)C#C)C#C)C | C54H50
